US06140100
A solution of 0.88 g of 3-methoxycarbonyl-L-phenylalanine.HCl, and 1.5 mL of conc. H2SO4 in 20 mL of 1,4-dioxane was added to 25 mL of liquid isobutylene (condensed at -78° C. ) in a 300 mL pressure bottle equipped with a magnetic stirrer. The bottle was sealed and the mixture allowed to warm to RT with stirring. The initially heterogeneous mixture afforded a slightly cloudy solution after stirring for 18 h at RT. After 48 h the vessel was chilled in an ice water bath, opened, and the contents treated with 13 g of said NaHCO3. The isobutylene was allowed to evaporate and the remaining mixture was concentrated in vacuo to dryness. The residue was suspended in 100 mL of water and extracted with EtOAc (4×40 mL). The combined EtOAc extracts were washed with 5% aqueous NaHCO3 (3×50 mL), dried over anhydrous MgSO4, and concentrated in vacuo to give an oil. This material was dissolved in 30 mL of ether and the solution was treated with 3.4 mL of 1 M ethereal HCl. A white solid precipitated which was collected by filtration and dried in vacuo to afford 0.79 g (74%) of tert-butyl 3-methoxycarbonyl-L-phenylalaninate.HCl, m.p. 165° C. (dec).

reactant | 3-methoxycarbonyl-L-phenylalanine | 0.88 g | COC(=O)C=1C=C(C[C@H](N)C(=O)O)C=CC1 | C11H13NO4
reactant | HCl | Cl | ClH
reactant | H2SO4 | 1.5 mL | OS(=O)(=O)O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
reactant | NaHCO3 | 13 g | C(=O)(O)[O-].[Na+]
reactant | HCl | 1 M, 3.4 mL | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ether | 30 mL | CCOCC | C4H10O
product | tert-butyl 3-methoxycarbonyl-L-phenylalaninate | 0.79 g, 74% | COC(=O)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1 | C15H21NO4
